US05171863
4-(1,2-Didodecanoyloxyethyl)-5-hydroxy-2(5H)-furanone
Using methyl methylphosphonochloridate in place of dodecanoyl chloride in the above-described procedure for making 4-(1-acetoxy-2-dodecanoyloxyethyl)-5-hydroxy-2(5H)-furanone, the product obtained is 4-[1-acetoxy-2-OP(0)(CCH3)(CH3) ethyl]-5-hydroxy-2(5H)-furanone.

reactant | methyl methylphosphonochloridate | CP(OC)(=O)Cl | C2H6ClO2P
reactant | 4-(1-acetoxy-2-dodecanoyloxyethyl)-5-hydroxy-2(5H)-furanone | C(C)(=O)OC(COC(CCCCCCCCCCC)=O)C1=CC(OC1O)=O | C20H32O7
product | 4-(1,2-Didodecanoyloxyethyl)-5-hydroxy-2(5H)-furanone | C(CCCCCCCCCCC)(=O)OC(COC(CCCCCCCCCCC)=O)C1=CC(OC1O)=O | C30H52O7
